US06642365B1
For guanylation, the neomycin B/γ-amino butyric acid conjugate obtained in Example 9a above is treated with O-methyl isourea or S-methyl isothiourea in water at basic pH for 34 days, resulting in guanylation of the terminal amino groups. The product is purified by ion exchange chromatography, yielding the neomycin B/γ-guanidino butyric acid conjugate 17.

reactant | neomycin B γ-amino butyric acid | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@H]2[C@@H]([C@@H]([C@H]([C@H](O2)CN)O)O)N)O[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O[C@@H]4[C@@H]([C@H]([C@@H]([C@@H](O4)CN)O)O)N)O)O)N.NCCCC(=O)O
reactant | O-methyl isourea | COC(N)=N | C2H6N2O
reactant | S-methyl isothiourea | CSC(N)=N | C2H6N2S
solvent | water | O | H2O
product | neomycin B γ-guanidino butyric acid | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@H]2[C@@H]([C@@H]([C@H]([C@H](O2)CN)O)O)N)O[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O[C@@H]4[C@@H]([C@H]([C@@H]([C@@H](O4)CN)O)O)N)O)O)N.N(C(=N)N)CCCC(=O)O | InChI=1S/C23H46N6O13.C5H11N3O2/c24-2-7-13(32)15(34)10(28)21(37-7)40-18-6(27)1-5(26)12(31)20(18)42-23-17(36)19(9(4-30)39-23)41-22-11(29)16(35)14(33)8(3-25)38-22;6-5(7)8-3-1-2-4(9)10/h5-23,30-36H,1-4,24-29H2;1-3H2,(H,9,10)(H4,6,7,8)/t5-,6+,7-,8+,9-,10-,11-,12+,13+,14-,15+,16-,17-,18-,19-,20-,21+,22-,23+;/m1./s1
